US05637580
A solution of commercial cephalothin sodium salt (5.0 g), sodium bicarbonate (1.06 g), sodium azide (0.82 g) and water (75 ml) is heated at approximately 50° C. (122° F.) until TLC (thin layer chromatography) shows the starting material is consumed. The reaction is cooled to approximately 3° C. (37° F.), covered with ethyl acetate and acidified with 1N HCl. The ethyl acetate extract is dried over Na2SO4, filtered and the filtrate is concentrated to dryness to give [6R[6a,7B]]-3-(azidomethyl)-8-oxo-7-](2-thienylacetyl)amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-3-carboxylic acid. A mixture of this azido intermediate (1.0 g), 10% Pd/C (1.0 g), NaHCO3 (1.54 g) and 75% methanol/H2O is subjected to hydrogenation at room temperature until TLC shows the disappearance of starting azide. The catalyst is removed by filtration and the filtrate is concentrated to dryness. The residue is dissolved in water, acidified with 1N HCl and the solution is washed with CHCl3. The aqueous phase is concentrated to dryness and the crude product is purified using 50W-X4 cation exchange resin to give product (II).

reactant | cephalothin sodium salt | 5.0 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CC3=CC=CS3)SC1)C(=O)[O-].[Na+]
reactant | sodium bicarbonate | 1.06 g | C([O-])(O)=O.[Na+]
reactant | sodium azide | 0.82 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 75 ml | O | H2O
product | 5-thia-1-azabicyclo[4.2.0]oct-2-ene-3-carboxylic acid | N12C=C(CSC2CC1)C(=O)O | C7H9NO2S
